US05688946
A mixture of 2 g (7 mmol) of (S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamic acid (EPA 0236734) and 2 g of rhodium/aluminium oxide catalyst (5%) in 100 ml of ethanol is hydrogenated for 10 hours at 50° and 10 bar. After filtering off the catalyst the reaction solution is evaporated under reduced pressure and the residue is recrystallized from a 9:1 mixture of hexane and ethyl acetate. There are obtained 1.6 g of (S)-α-[(tert-butylsulphonyl)methyl]cyclohexanepropionic acid as colourless needles; MS: 308 (M+NH4)+.

reactant | (S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamic acid | 7 mmol, 2 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C14H20O4S
catalyst | rhodium aluminium oxide | 2 g | [Rh].[O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (S)-α-[(tert-butylsulphonyl)methyl]cyclohexanepropionic acid | 1.6 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC1CCCCC1 | C14H26O4S
